US09328093B2
Ethyl 9-bromo-5,6,7,8-tetrahydroacridine-3-carboxylate
A suspension of 9-oxo-5,6,7,8,9,10-hexahydro-acridine-3-carboxylic acid (1 g, 0.42 mmols) in toluene (10 mL) was heated with phosphorous oxybromide (3.54 g, 1.2 mmols) to 100° C. for 4 h. Reaction completion was monitored by TLC. Alter completion, the reaction mixture was cooled to 25° C., quenched with methanol (10 mL), concentrated the reaction mixture under vacuum and purified the crude product with silica gel column (60:120). Product eluted with 2% methanol in chloroform. Fractions were collected and concentrated to get the pure product as off white solid. This compound was taken as such to next step.

reactant | 9-oxo-5,6,7,8,9,10-hexahydro-acridine-3-carboxylic acid | 0.42 mmols, 1 g | O=C1C=2CCCCC2NC=2C=C(C=CC12)C(=O)O | C14H13NO3
reactant | phosphorous oxybromide | 1.2 mmols, 3.54 g | P(=O)(Br)(Br)Br | Br3OP
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 9-bromo-5,6,7,8-tetrahydroacridine-3-carboxylate | BrC=1C=2CCCCC2N=C2C=C(C=CC12)C(=O)OCC | C16H16BrNO2
